US06320050B1
A suspension of cyclopentylmethyl triphenylphosphonium iodide (24.48 g, 51.82 mmol) in dry tetrahydrofuran (100 mL) was cooled to 0° C. and then treated dropwise with a 1.0M solution of sodium bis(trimethylsilyl)amide in tetrahydrofuran (52 mL, 51.82 mmol). The bright orange reaction mixture was stirred at 0° C. for 1 h. The reaction mixture was then treated with (4-ethylsulfanyl-phenyl)-oxo-acetic acid ethyl ester (9.50 g, 39.87 mmol). The resulting reaction mixture was allowed to warm to 25° C. where it was stirred for 20 h. The reaction mixture was concentrated in vacuo to remove tetrahydrofuran and then diluted with water (300 mL). The aqueous layer was extracted with ethyl acetate (3×200 mL). The combined organic layers were washed with a saturated aqueous sodium chloride solution (1×200 mL), dried over sodium sulfate, filtered, and concentrated in vacuo. Flash chromatography (Merck Silica gel 60, 70-230 mesh, 19/1 hexanes/ethyl acetate) afforded the 3-cyclopentyl-2-(4-ethylsulfanyl-phenyl)-acrylic acid ethyl ester (6.08 g, 50%) as a yellow oil containing a 1.82:1 mixture of (E):(Z) isomers: FAB-LRMS m/e calcd for C18H24O2S (M+H)+ integer mass 304, found 305. The isomeric mixture was used without further separation in subsequent reactions.

reactant | cyclopentylmethyl triphenylphosphonium iodide | 51.82 mmol, 24.48 g | [I-].C1(CCCC1)C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | sodium bis(trimethylsilyl)amide | C[Si](C)(C)[N-][Si](C)(C)C.[Na+]
reactant | (4-ethylsulfanyl-phenyl)-oxo-acetic acid ethyl ester | 39.87 mmol, 9.50 g | C(C)OC(C(=O)C1=CC=C(C=C1)SCC)=O | C12H14O3S
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 51.82 mmol, 52 mL | O1CCCC1 | C4H8O
product | 3-cyclopentyl-2-(4-ethylsulfanyl-phenyl)-acrylic acid ethyl ester | 6.08 g, 50% | C(C)OC(C(=CC1CCCC1)C1=CC=C(C=C1)SCC)=O | C18H24O2S
